US06855710B2
(Z)-3-{1-[3-(N-methyl-N-methylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone
Prepared analogously to Example 36 from (Z)-3-[1-(3-methylsulphonylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone, methyliodide and potassium carbonate in acetone.

reactant | (Z)-3-[1-(3-methylsulphonylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone | CS(=O)(=O)NC=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C22H19N3O3S
reactant | methyliodide | CI | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | (Z)-3-{1-[3-(N-methyl-N-methylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone | CN(S(=O)(=O)C)C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C23H21N3O3S
